Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],4.59299222467
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.29006540255
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:4],2.08255667205
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[O:12]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12]1,0.17748339352
[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],-0.94361078012
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]#[C:9][H:10]>>[C:8]#[C:9][H:10].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7],6.34256726964
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:10]([C:7]([O:6])([H:8])[H:9])([H:11])[H:12],0.89389070035
[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7]>>[C:1]#[C:2].[O:3]=[C:4]=[C:5]([H:6])[H:7],1.01839736163
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4][C:5][H:6],4.3399443934
[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11].[O:1],7.651224408360001
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.90886458101
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])=[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],6.27083269105
[C:2]([H:3])=[C:4]([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],-5.82458861143
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:4],1.98922002279
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7],1.74627180506
[C:4]#[C:5][H:6].[H:1][C:2]#[C:3][O:7][H:8]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][H:8],-3.26957374418
[H:1][C:2][O:3][H:4]>>[H:1][C:2]=[O:3].[H:4],1.68598916408
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7][H:8].[H:9],5.135836021519999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6],4.932250659
[C:1]#[C:2][C:6]([H:7])([H:8])[O:9][H:10].[C:3][O:4][H:5]>>[C:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.07694819238
[C:1]#[C:2][C:3]([H:4])[O:5][O:6].[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C@:3]([H:4])([O:5][O:6])[C:7]([H:8])([H:9])[H:10],-2.03522759706
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.17055286987
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.91324913953
[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.57318327749
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],3.96402802284
[H:1][C:2]([H:3])=[C:4][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.1184380125
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],1.5126978061
[H:1][C:2]1=[C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2][C:10]([C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9])([H:11])[H:12],5.03982472903
[C:1]#[C:2][C@:3]([H:4])([O:5][O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][O:6].[C:7]([H:8])([H:9])[H:10],2.03522759706
[C:4](=[O:5])[H:6].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4](=[O:5])[H:6],-3.99929177654
[C:4]#[C:5][C:6][C:7]([H:8])[H:9].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6][C:7]([H:8])[H:9],-3.72604794987
